US06800651B2
N-(3-(2-Hydroxyphenoxy)phenyl)-N-(2,2,2-trifluoroethylsulfonyl)pyrid-3-ylmethylamine
A solution of N-(3-(2-benzyloxyphenoxy)phenyl)-N-(2,2,2-trifluoroethylsulfonyl)pyrid-3-ylmethylamine (529 mg, 1.00 mmol) in methanol (50 mL) was carefully treated with Raney® nickel (one tsp.), placed on a Parr® apparatus, and hydrogenated at 45-50 psi pressure for 3 h. The mixture was carefully filtered through celite® under nitrogen without allowing the filter cake to dry, and the filtrate was concentrated in vacuo. The residual solid was triturated from petroleum ethers (30°-60°) to afford the title compound (394 mg, 90%) as a white solid; mp 57.5-60.0° C. The title compound was converted to the hydrochloride salt by treatment in methanol with ethereal HCl. 1H NMR: 8.50 (br s,1H), 8.25 (br s,1H), 7.68 (d,1H, J=8 Hz), 7.25-7.30 (m,2H); 6.95-7.10 (m,2H), 6.90-6.95 (m,2H), 6.70-6.85 (m,3H), 6.05 (br s,1H), 4.82 (s,2H), 3.75-3.85 (m,2H).MS calcd. 438.4; MS(M+1) 439.3

reactant | N-(3-(2-benzyloxyphenoxy)phenyl)-N-(2,2,2-trifluoroethylsulfonyl)pyrid-3-ylmethylamine | 1.00 mmol, 529 mg | C(C1=CC=CC=C1)OC1=C(OC=2C=C(C=CC2)N(S(=O)(=O)CC(F)(F)F)CC=2C=NC=CC2)C=CC=C1 | C27H23F3N2O4S
solvent | methanol | 50 mL | CO | CH4O
catalyst | Raney® nickel | one tsp. | [Ni] | Ni
product | N-(3-(2-Hydroxyphenoxy)phenyl)-N-(2,2,2-trifluoroethylsulfonyl)pyrid-3-ylmethylamine | 394 mg, 90% | OC1=C(OC=2C=C(C=CC2)N(S(=O)(=O)CC(F)(F)F)CC=2C=NC=CC2)C=CC=C1 | C20H17F3N2O4S
